US08013080B2
1-n-Butylbiguanide hydrochloride (product of Wako Pure Chemical Industries) was neutralized with an aqueous solution of sodium hydroxide to give 1-n-butylbiguanide. A 50% methanol solution of this 1-n-butylbiguanide was prepared and use.

reactant | 1-n-Butylbiguanide hydrochloride | Cl.C(CCC)NC(=N)NC(=N)N
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-n-butylbiguanide | C(CCC)NC(=N)NC(=N)N | C6H15N5
